US08309581B2
d) 2-(4-Cyano-2-fluoro-phenoxymethyl)-benzoic acid
To a solution of 2-(4-cyano-2-fluoro-phenoxymethyl)-benzoic acid methyl ester (2.17 g, 7.6 mmol) in tetrahydrofuran (30 ml) was added a solution of lithium hydroxide monohydrate (1.59 g, 38.03 mmol) in water (30 ml) and the resulting mixture was allowed to stir at 25° C. for 12 h. The solvent was removed in vacuo, the residue was diluted with water (20 ml), washed with diethyl ether (2×15 ml). The aqueous layer was then acidified to pH 5 with 2N aqueous hydrochloric acid and extracted with ethyl acetate (2×40 ml). The combined organic layers were washed with water (2×25 ml), brine, dried over sodium sulfate, filtered, and evaporated to afford the desired compound as a colorless solid (90%). MS (Turbo Spray): m/z=272.1 (M+H).

reactant | 2-(4-cyano-2-fluoro-phenoxymethyl)-benzoic acid methyl ester | 7.6 mmol, 2.17 g | COC(C1=C(C=CC=C1)COC1=C(C=C(C=C1)C#N)F)=O | C16H12FNO3
reactant | lithium hydroxide monohydrate | 38.03 mmol, 1.59 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 2-(4-Cyano-2-fluoro-phenoxymethyl)-benzoic acid | 90% | C(#N)C1=CC(=C(OCC2=C(C(=O)O)C=CC=C2)C=C1)F | C15H10FNO3
